US08053588B2
Firstly, a mixture of 1,4-diiodobenzene (4 g, 12.1 mmol), PdCl2(PPh3)2 (340 mg, 0.484 mmol) and CuI (92.4 mg, 0.484 mmol), was added with dist. THF (20 mL), dist. Et3N (60 mL) and trimethylsilylacetylene (3.77 mL, 26.7 mmol). The resultant mixture was stirred under a nitrogen atmosphere at 80° C. for 22 hours to obtain a reaction mixture. Then, the reaction mixture was diluted with CH2Cl2. After that, an organic layer was washed with sat. NaCl, and dried with MgSO4. The dried organic layer was filtered and concentrated to obtain a crude product. The obtained crude product was separated and purified by silica gel column chromatography (hexane/EtOAc=10/1) to obtain 1,4-diethynylbenzene.

reactant | 1,4-diiodobenzene | 12.1 mmol, 4 g | IC1=CC=C(C=C1)I | C6H4I2
reactant | THF | 20 mL | C1CCOC1 | C4H8O
reactant | Et3N | 60 mL | CCN(CC)CC | C6H15N
reactant | trimethylsilylacetylene | 26.7 mmol, 3.77 mL | C[Si](C)(C)C#C | C5H10Si
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
catalyst | PdCl2(PPh3)2 | 0.484 mmol, 340 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | CuI | 0.484 mmol, 92.4 mg | [Cu]I
product | 1,4-diethynylbenzene | C(#C)C1=CC=C(C=C1)C#C | C10H6
